### ISSUE TITLE
STを使ってFalseを示す例

### ISSUE THREAD

**Issue by Seasawher** [lean-ja/lean-by-example#2442]
If you're curious, here's a proof of `False` using `ST.Ref.get`:
````spoiler Proof of False
```lean4
def test : ST ω Nat := fun s =>
  let ⟨ref, s₁⟩ := ST.Prim.mkRef 0 s
  let ⟨n, _⟩ := ST.Prim.Ref.get ref s₁
  let ⟨(), s₃⟩ := ST.Prim.Ref.set ref 1 s₁
  ⟨n, s₃⟩

def test2 : ST ω Nat := fun s =>
  let ⟨ref, s₁⟩ := ST.Prim.mkRef 0 s
  let ⟨(), s₃⟩ := ST.Prim.Ref.set ref 1 s₁
  let ⟨n, _⟩ := ST.Prim.Ref.get ref s₁
  ⟨n, s₃⟩

example : False := by
  have : (test (Void.mk ())).1 = 0 := by native_decide
  have : (test2 (Void.mk ())).1 = 1 := by native_decide
  have : @test = @test2 := rfl
  simp_all
```
````

**Comment by Seasawher** [comment]
https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/I.20proved.20False.20using.20.22by.20native_decide.22/near/591003226
